US07897607B2
3-Bromo-1-methyl-5-nitropyridin-2(1H)-one
To a solution containing 0.55 g (3.57 mmol) of 1-methyl-5-nitropyridin-2(1H)-one in 10 ml of N,N-dimethylformamide under a nitrogen atm. was added 0.76 g (4.27 mmol) of N-bromosuccinimide. The reaction was allowed to stir at 25° C. overnight. The reaction was diluted with dichloromethane and washed with water. The organic phase was dried over magnesium sulfate. Filtration, removal of solvent and purification of the residue via biotage eluting with 70% ethyl acetate/hexanes gave 0.60 g (72.15%) of product as a white solid.

reactant | 1-methyl-5-nitropyridin-2(1H)-one | 3.57 mmol, 0.55 g | CN1C(C=CC(=C1)[N+](=O)[O-])=O | C6H6N2O3
reactant | N-bromosuccinimide | 4.27 mmol, 0.76 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Bromo-1-methyl-5-nitropyridin-2(1H)-one | 0.60 g, 72.15% | BrC=1C(N(C=C(C1)[N+](=O)[O-])C)=O | C6H5BrN2O3
